data/mechanisms/records/IMS8-EQ8.38a.json
{"mechanism_id": "IMS8-EQ8.38a", "species": [{"species_id": "isopentane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH:3]([CH3:5])[CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "isopropyl_cation", "mapped_smiles": "[CH+:3]([CH3:5])[CH3:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["isopentane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "isopropyl_cation"]}], "steps": [{"step_id": "step_sigma_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_8_38a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage", "support_type": "textbook_proposed", "locator": {"page": 169, "equation": "8.38", "figure": null, "panel": null, "section": "8.6 Sigma-bond dissociation (sigma)"}, "confidence": 0.85, "curator_note": "Equation 8.38, first branch: 'R3C(+)CR'3 --> R3C+ + .CR'3  or  R3C. + (+)CR'3'. The concrete restatement of 8.37 line 1 for a C-C sigma bond between two substituted carbons; the two branches differ only in which fragment keeps the charge. This record encodes the FIRST/FAVORED branch. ARC COUNT (convention D): the book draws 0 curved arrows/fishhooks (straight reaction arrow). The 2 encoded electron_moves are IMPLICIT sigma homolysis: move <1> one electron of the cleaving C2-C3 bond OUT of the system (external ionization hole), move <2> the other onto C2 (ethyl radical); C3 becomes the cation. INSTANTIATION (convention F): instantiated with the exact worked example given in the running text on this page - the sigma-bond dissociation of C2H5-CH(CH3)2+. (2-methylbutane / ISOPENTANE) cleaving the ethyl-isopropyl C2-C3 bond. Mapping ethyl = C1-C2 (maps 1,2), isopropyl = C3 with its two methyls (maps 3,4,5). This branch gives the FAVORED polarization the text names: 'C2H5.--(+)CH(CH3)2 should be favored as the bond stretches, and the product abundance of +CH(CH3)2 should be greater than that of C2H5+' -> ethyl radical + isopropyl cation (+CH(CH3)2 = C3H7+). Curator-computed detected ion m/z 43.0542 (C3H7+); the page states this ion is the MORE abundant of the pair and notes C3H7+ (from C2H5 loss) is twice as abundant as C4H9+ (from CH3 loss), but prints NO numeric m/z or intensity, so detected=false / status inferred and no relative_intensity is recorded (convention F). LOCALIZATION (convention B): neutral isopentane skeleton with charge/radical in the fields + external-hole move (the loose 2c-1e sigma bond has no valence-correct single-atom SMILES), same convention as IMS4-EQ4.3."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.0934, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_isopropyl", "species_id": "isopropyl_cation", "step_id": "step_sigma_cleavage", "observed_mz": 43.0542, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
